US05571810
A mixture of acetic anhydride (1.1 g) and formic acid (0.8 g) was heated at 50° C. for 30 minutes. To the mixture was added ethyl 5-(4-aminophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylate (0.5 g). The mixture was stirred at ambient temperature for 4 hours and poured into ice-water. The precipitates were collected, washed with water, and dried in vacuo to give ethyl 5-[4-(formylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylate (0.38 g).

reactant | acetic anhydride | 1.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 5-(4-aminophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylate | 0.5 g | NC1=CC=C(C=C1)C1=C(C=C(S1)C(=O)OCC)C1=CC=C(C=C1)S(=O)(=O)C | C20H19NO4S2
solvent | formic acid | 0.8 g | C(=O)O | CH2O2
product | ethyl 5-[4-(formylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylate | 0.38 g | C(=O)NC1=CC=C(C=C1)C1=C(C=C(S1)C(=O)OCC)C1=CC=C(C=C1)S(=O)(=O)C | C21H19NO5S2
